US03959263
Diethyl trans-2-{3-[(tetrahydropyran-2-yl)oxy]-3-methyl-1-octenyl}cyclopropane-1,1-dicarboxylate (1; R1 = C2H5, R2 = (tetrahydropyran-2-yl)oxy, R4 and R5 = H, R6 = CH3 and n = 3)
A solution of diethyl trans-2-(3-hydroxy-3-methyl-1-octenyl)cyclopropane-1,1-dicarboxylate (22.4 g), described in Example 31, dihydropyran (80 ml, distilled over sodium) and p-toluenesulfonic acid monohydrate (300 mg) is allowed to stand at room temperature for 30 min. After adding a few ml of 10% Na2CO3 solution the mixture is extracted with ether. The ether extract is washed with water, dried (Na2SO4) and evaporated. Purification of the residue by chromatography on silica gel gives the title compound, nmr (CDCl3) δ 0.87 (t, 3H), 2.48 (m, 1H), 4.6 (1H), 5.5 (m, 2H).

reactant | diethyl trans-2-(3-hydroxy-3-methyl-1-octenyl)cyclopropane-1,1-dicarboxylate | 22.4 g | OC(/C=C/C1C(C1)(C(=O)OCC)C(=O)OCC)(CCCCC)C | C18H30O5
reactant | p-toluenesulfonic acid monohydrate | 300 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dihydropyran | 80 ml | O1CCCC=C1 | C5H8O
product | Diethyl trans-2-{3-[(tetrahydropyran-2-yl)oxy]-3-methyl-1-octenyl}cyclopropane-1,1-dicarboxylate | O1C(CCCC1)OC(/C=C/C1C(C1)(C(=O)OCC)C(=O)OCC)(CCCCC)C | C23H38O6
